US06353006B1
2-Methyl-4-nitrophenyl isothiocyanate was reacted with (1S)-1-amino-1-cyclohexylethane followed by α-chloropropionic acid according to Method C8a to afford 2-(2-methyl-4-nitrophenylimino)-3-((1S)-1-cyclohexylethyl)-5-methyl-1,3-thiazolidin4-one.

reactant | 2-Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | (1S)-1-amino-1-cyclohexylethane | N[C@@H](C)C1CCCCC1 | C8H17N
reactant | α-chloropropionic acid | ClC(C(=O)O)C | C3H5ClO2
product | 2-(2-methyl-4-nitrophenylimino)-3-((1S)-1-cyclohexylethyl)-5-methyl-1,3-thiazolidin4-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(C(N1[C@@H](C)C1CCCCC1)=O)C | C19H25N3O3S
